US07709100B2
Step 2: 2-(2′-methylbiphenyl-3-yl)5-methylpyridine
To a mixture of 2-ethoxyethanol (95 mL) and water (25 mL) were added 11.0 g (42.4 mmol) of 2-(2′-methylbiphenyl-3-yl)pyridine and 7.9 g (21.2 mmol) of IrCl3. The reaction mixture was heated under a nitrogen atmosphere at reflux for 50 h and cooled. The yellow precipitate that formed was collected by vacuum filtration and washed with methanol and ethyl acetate to give 11.0 g (70%) of chloro-bridged dimer

reactant | 2-ethoxyethanol | 95 mL | C(C)OCCO | C4H10O2
reactant | 2-(2′-methylbiphenyl-3-yl)pyridine | 42.4 mmol, 11.0 g | CC1=C(C=CC=C1)C1=CC(=CC=C1)C1=NC=CC=C1 | C18H15N
solvent | water | 25 mL | O | H2O
product | 2-(2′-methylbiphenyl-3-yl)5-methylpyridine | CC1=C(C=CC=C1)C1=CC(=CC=C1)C1=NC=C(C=C1)C | C19H17N
